US06372740B1
To a mixture of a 20% solution of sodium ethoxide in ethanol (44.9 g) and ethanol (200 ml) is added benzamidine hydrochloride (10.3 g) at room temperature. The mixture is stirred at the same temperature for two hours, and thereto is added ethyl benzalmalonate (14.0 g), and the mixture is refluxed for three hours. The reaction mixture is concentrated under reduced pressure, and to the residue is added ice-water. To the mixture is added dropwise conc. hydrochloric acid until the pH value of the mixture is adjusted to pH 4. The precipitates are collected by filtration, and washed with water to give crude ethyl 3,4,5,6-tetrahydro-4-oxo-2,6-diphenylpyrimidine-5-carboxylate (15.8 g).

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | benzamidine hydrochloride | 10.3 g | Cl.C(C1=CC=CC=C1)(=N)N
reactant | ethyl benzalmalonate | 14.0 g | C(C1=CC=CC=C1)=C(C(=O)OCC)C(=O)[O-]
solvent | ethanol | 44.9 g | C(C)O | C2H6O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | ethyl 3,4,5,6-tetrahydro-4-oxo-2,6-diphenylpyrimidine-5-carboxylate | 15.8 g | O=C1NC(=NC(C1C(=O)OCC)C1=CC=CC=C1)C1=CC=CC=C1 | C19H18N2O3
